US05382572
Following the procedure of Example 5, 1-methyl-3-formyl-4-hydroxy-2(1H)-quinolinone (from Preparation B) was acylated with propanoic anhydride to give 1-methyl-3-[di-(1-oxopropoxy)]methyl-4-(1-oxopropoxy)-2(1H)-quinolinone. That the expected product was obtained was confirmed by the spectral data: MS (CI): m/e 390 (M.+ +1); NMR (CDCl3): δ1.14 (t, 6H, 2 x CH3CH2), 1.38 (t, 3H, CH3CH2), 2.39 (m, 4H, 2 x CH2CO), 2.83 (q, 2H, CH3CH2CO), 3.74 (s, 3H, NCH3), 8.10 (s, 1 H, (CH3CH2COO)2CH) ppm.

reactant | 1-methyl-3-formyl-4-hydroxy-2(1H)-quinolinone | CN1C(C(=C(C2=CC=CC=C12)O)C=O)=O | C11H9NO3
reactant | propanoic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 1-methyl-3-[di-(1-oxopropoxy)]methyl-4-(1-oxopropoxy)-2(1H)-quinolinone | CN1C(C(=C(C2=CC=CC=C12)OC(CC)=O)C(OC(CC)=O)OC(CC)=O)=O | C20H23NO7
